US08685981B2
4-[2-(Tetrahydrofuran-3-ylmethoxy)ethoxy]piperidine
Using benzyl 4-(2-{[(4-methylphenyl)sulfony]oxy}ethoxy)piperidine-1-carboxylate (4.00 g, 9.23 mmol) produced in Reference Example 1 (1c) and (tetrahydrofuran-3-yl)methanol (1.23 g, 12.0 mmol), the desired title compound (1.41 g, yield 67%) was obtained by the same method as in Examples 1 (1d) and 1 (1e).

reactant | benzyl 4-(2-{[(4-methylphenyl)sulfony]oxy}ethoxy)piperidine-1-carboxylate | 9.23 mmol, 4.00 g | CC1=CC=C(C=C1)S(=O)(=O)OCCOC1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C22H27NO6S
reactant | (tetrahydrofuran-3-yl)methanol | 12.0 mmol, 1.23 g | O1CC(CC1)CO | C5H10O2
product | 4-[2-(Tetrahydrofuran-3-ylmethoxy)ethoxy]piperidine | 1.41 g, yield 67% | O1CC(CC1)COCCOC1CCNCC1 | C12H23NO3
